Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
flank pain
 
Major Surgical or Invasive Procedure:
n/a

 
History of Present Illness:
___ w/o sig PMH p/w R flank pain. About 2 weeks PTA she caught 
a GI illness (nausea, significant non-bloody diarrhea) that was 
going around her family and which she suspects came from her 
sister's child (who is in daycare). About a week PTA she started 
having R flank pain and symptoms of a yeast infection. On ___ 
she started feeling diffusely achy and had some chills and felt 
warm, but has not had a fever each time it was checked. She 
started taking Advil, up to 600mg q4h, intermittently. She later 
developed abdominal pain (epigastric, mild, intermittent, better 
with food, mildly pleuritic) and DOE.  She went to an urgent 
care, had a urimne checked and was told she had a UTI and was 
started on cipro (first dose ___ and a dose of fluconazole for 
a presumed yeast infection. 
Her Flank pain is dull, constant,  worse with movement and 
associated with mild dysuria. On questioning, she does endorse 
some mild preceding dysuria. No stones, no instrumentation, no 
surgery, only one UTI remotely in her life. Had hematuria on day 
of admission, which is what brought her in.
She is sexually active, had a neg UCG, history of chlamydia 
remotely x1. Has had dyspareunia when she last had intercourse 
(1 week PTA) and mild vaginal pink discharge. LMP ___. Mutually 
monogamous with male partner. 
She has had a mild non-productive cough.
Has had decreased UOP last few days despite lots of H2O.
No vomiting now, feeling constipated, had a normal BM on day of 
admit without blood. 
No neck stiffness, URI sxs, CP, rash, joint pain. ROS otherwise 
neg 11 systems.

Presented to ED, 98.8 90 117/73 18 100%RA. Noted to have 
dimisihed RLL sounds, R CVAT with RUQ tenderness. POCUS with no 
free fluid, ___ kidneys without hydro, GB normal wall thickness, 
no pericholecystitc fluid or stones, no pericardial free fluid, 
good contractility, no RV dilatation and no PTX on lung. Labs 
with leukocytosis and Cr 1.5, UA with lyuria, hematuria. BCx 
drawn but UCx not. CTA and CTU and CXR with results notable for 
B pyelo, ? R renal abscess (early), ? BLL pneumonia.

Received 3L IVF, CTX, APAP. Feeling less flank pain since then. 
 
Past Medical History:
anxiety
 
Social History:
___
Family History:
no kidney disease
 
Physical Exam:
Admission Exam: 
98.0 120/74 16 98%RA, 0 pain
pleasant, younger than stated age, NAD
NCAT, anicteric, EOMI, MMM
supple neck, JVP flat
RRR no mrg
CTAB
R CVAT
no spinal tenderness
soft, mildly ttp epigastrum, no rebound, very quiet BS
wwp, neg edema
A&Ox3, ___ BUE/BLE, SILT BUE/BLE
no foley
normal affect

Discharge Exam: 
VS: 98.5 142/74  P91  R18  94% on RA
 Consitutional: ___ woman in NAD, lying in bed comfortably, 
eating breakfast
 Eyes: EOMI, sclerae anicteric  
 ENT: MMM, OP clear
 Cardiovasc: RRR, no MRG, no edema  
 Resp: normal effort, no accessory muscle use, lungs CTA ___.
 GI: soft, NT, ND, BS+
 MSK: very mild R CVA tenderness. No significant kyphosis. No 
palpable synovitis.
 Skin: No visible rash. No jaundice.
 Neuro: AAOx3. CNs II-XII intact. MAEE.
 Psych: Full range of affect
 
Pertinent Results:
___ 01:01PM   LACTATE-1.9
___ 12:40PM   GLUCOSE-83 UREA N-12 CREAT-1.5* SODIUM-139 
POTASSIUM-3.8 CHLORIDE-104 TOTAL CO2-23 ANION GAP-16
___ 12:40PM   ALT(SGPT)-21 AST(SGOT)-17 ALK PHOS-81 TOT 
BILI-0.4
___ 12:40PM   LIPASE-29
___ 12:40PM   cTropnT-<0.01
___ 12:40PM   ALBUMIN-3.6 CALCIUM-8.7 PHOSPHATE-2.4* 
MAGNESIUM-2.0
___ 12:40PM   D-DIMER-1406*
___ 12:40PM   WBC-15.3* RBC-3.66* HGB-11.8 HCT-34.2 MCV-93 
MCH-32.2* MCHC-34.5 RDW-11.7 RDWSD-39.8
___ 12:40PM   NEUTS-84.8* LYMPHS-7.2* MONOS-6.5 EOS-0.5* 
BASOS-0.2 IM ___ AbsNeut-13.02* AbsLymp-1.10* AbsMono-0.99* 
AbsEos-0.08 AbsBaso-0.03
___ 12:30PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 12:30PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-MOD
___ 12:30PM URINE  RBC-40* WBC-10* BACTERIA-NONE YEAST-NONE 
EPI-1 TRANS EPI-1

==============================================================
EKG NSR at 80, nl axis, nl intervals, no LVH/RVH, QTc 426, no 
ST/TWAs

==============================================================
CXR
IMPRESSION:  
Platelike atelectasis, thought to lie at the right base 
posteriorly.  No frank infiltrate or consolidation more typical 
for pneumonia identified. 
  
Slight elevation of the right hemidiaphragm, of uncertain 
chronicity. 
  
Otherwise, no acute pulmonary process identified. 

==============================================================
CT chest 
Final Report 
INDICATION:  ___ with shortness of breath and right flank pain.  
Evaluate for 
PE and causes of right flank pain. 
  
TECHNIQUE:  Axial multidetector CT images were obtained through 
the thorax 
after the uneventful administration of intravenous contrast in 
the arterial 
phase.  Then, imaging was obtained through the abdomen and 
pelvis in the 
portal venous phase. Reformatted coronal and sagittal images 
through the 
chest, abdomen, and pelvis, and oblique maximal intensity 
projection images of 
the chest were submitted to PACS and reviewed. 
  
DOSE:  Total DLP (Body) = 642 mGy-cm. 
  
COMPARISON:  None. 
  
FINDINGS:  
  
CHEST: 
  
HEART AND VASCULATURE: Pulmonary vasculature is well opacified 
to the 
subsegmental level without filling defect to indicate a 
pulmonary embolus.  
The thoracic aorta is normal in caliber without evidence of 
dissection or 
intramural hematoma.  The heart, pericardium, and great vessels 
are within 
normal limits. No pericardial effusion is seen. 
  
AXILLA, HILA, AND MEDIASTINUM: No axillary, mediastinal, or 
hilar 
lymphadenopathy is present.  No mediastinal mass. 
  
PLEURAL SPACES:  There are trace bilateral pleural effusions.  
There is no 
pneumothorax. 
  
LUNGS/AIRWAYS:  The airways are patent to the subsegmental 
level.  There are 
areas of patchy consolidation and ground-glass at the bilateral 
lower lobes.  
This likely reflect atelectasis, although developing pneumonia 
is not 
excluded.  A 4 mm nodule is identified in the right upper lobe 
(03:34) and a 3 
mm nodule in the left lower lobe (3:98). 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is no evidence of focal lesions.  There is no evidence of 
intrahepatic 
or extrahepatic biliary dilatation.  The gallbladder is within 
normal limits.  
Periportal edema is noted. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of 
focal lesions or pancreatic ductal dilatation. There is no 
peripancreatic 
stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS:  The right and left adrenal glands are normal in size 
and shape. 
  
URINARY:  Striated nephrograms are present bilaterally, more 
pronounced in the 
right kidney concerning for pyelonephritis.  Particularly in the 
upper pole of 
the right kidney there appears to be a rounded heterogeneous 
lesion measuring 
3.2 cm, concerning for early developing abscess.  There is no 
hydronephrosis 
or perinephric abnormality. 
  
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate 
normal caliber, wall thickness, and enhancement throughout.  The 
colon and 
rectum are within normal limits.  The appendix is not clearly 
identified but 
there are no secondary signs of appendicitis.  There is no free 
intraperitoneal fluid or free air. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no 
free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: The uterus and bilateral adnexa are 
unremarkable. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There 
is no pelvic or inguinal lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm.  No 
atherosclerotic disease 
is noted. 
  
BONES AND SOFT TISSUES: There is no evidence of worrisome 
osseous lesions or 
acute fracture.  The abdominal and pelvic wall is within normal 
limits. 
  
IMPRESSION:  
  
1.  Bilateral pyelonephritis, more pronounced in the right 
kidney.  Rounded 
heterogeneous lesion in the right kidney is concerning for early 
developing 
abscess. 
2.  No pulmonary embolism or acute aortic pathology. 
3.  Ground-glass opacity in consolidation at the bilateral lower 
lobes.  While 
these may represent areas of atelectasis common developing 
pneumonia is not 
excluded.  Trace bilateral pleural effusions. 

==============================================================
Discharge Labs; 

___ 06:59AM BLOOD WBC-11.3* RBC-3.44* Hgb-10.7* Hct-31.6* 
MCV-92 MCH-31.1 MCHC-33.9 RDW-11.8 RDWSD-39.7 Plt ___
___ 06:59AM BLOOD Glucose-102* UreaN-8 Creat-1.0 Na-138 
K-3.8 Cl-103 HCO3-24 AnGap-15
___ 12:40PM BLOOD ALT-21 AST-17 AlkPhos-81 TotBili-0.4
___ 06:59AM BLOOD Calcium-8.2* Phos-4.2 Mg-1.7
 
Brief Hospital Course:
Ms. ___ is a ___ woman with PMHx only notable for anxiety 
with recent GI illness who presented with progressive R flank 
pain, hematuria and dysuria x 1 week (despite starting cipro 
prescribed from an urgent care clinic on ___ s/p CT ab in the 
ED which showed e/o bilateral pyelonephritis (more pronounced on 
R kidney) for which she was admitted for sepsis (WBC, fever) 
treated with IV antibiotics after which she quickly improved on 
IV ceftriaxone. Her respiratory symptoms resolved completely 
without specific intervention. Her R flank pain improved 
somewhat and she remained afebrile. WBC improved. Unfortunately, 
no microbiology data were available as our urine cultures were 
no growth and the urine culture results from her urgent care 
facility were not available either. Course was also notable for 
mild acute renal failure with a peak creatinine of 1.5 which 
improved to 1.0 on the day of discharge with good urine output. 
She was tolerating good oral intake without nausea or vomiting. 
She will be discharged to continue on oral Bactrim, assuming 
that perhaps the bacteria were resistant to cipro given poor 
response despite several days of that antibiotic. She will 
follow up with her PCP within the week with strict instructions 
to seek emergency care should her condition worsen. 

Her boyfriend came up to the hospital who will drive her back 
home to near ___ this evening. She was given a final 
dose of ceftriaxone on the evening of discharge on ___. 

Rest of hospital course/plan are outlined below by issue: 

# sepsis, ___ pyelonephritis: Ct images disclosed "rounded 
heterogeneous lesion on the R kidney" c/f early developing 
phlegmon as well as bilateral lower lobe GGOPs vs atelectasis. 
-Given possible early renal abscess seen on CT scan, I spoke 
with the radiologist who did not feel this was likely to become 
an abscess and most likely an artifactual finding due to 
inflammation. If anything, this could be an early phlegmon which 
would not be amenable to drainage at this time. I discussed with 
radiology about performing another ultrasound during this 
hospitalization would be useful  who felt this would not add 
anything useful at this time.  Decided to treat clinically, if 
her pain does not improve or does not respond clinically to 
antibiotics, then would repeat a renal ultrasound to rule out a 
developed abscess at that point. 
-urine culture at ___ unfortunately was no growth. 
-Upreg test negative
- s/p cipro ___ at urgent care clinic) but changed to CTX 
(___). will need 14 days of appropriate antibiotic (d14 from 
start of ceftriaxone will be ___
-she will be discharged with a short supply of vicodin for R 
flank pain. I checked her PMP and she had no records on file 
under her name. 

# Bibasilar GGOPs on CT scan: Had a positive D-dimer in the ED 
so CTA chest was done which was negative for PEs however did 
show, bibasilar GGOPs. There was notably no obvious infiltrate 
on CXR. Clinically pneumonia was unlikely given lack of obvious 
signs or symptoms and a much more likely source (UTI). 
-initially added azithromycin (___) for CAP coverage however 
azithro was later discontinued as pneumonia was felt less likely
-more likely atelectasis due to pain from pyelonephritis (stated 
she had pain in her R flank when taking a deep breath which 
later improved, managed with incentive spirometry. 

# mild acute renal failure: likely ___ sepsis, plus likely 
contribution from NSAIDs which she admitted to taking as well. 
Cr on admission 1.5 from presumably normal b/l, improved to ___ 
s/p 3L in ED plus an additional liter, urinating well per her 
reports. 
- hold NSAIDs

# anxiety: continued home klonopin

# Transitional Issues to be addressed by PCP: 
-PCP is at ___ Internal Medicine in ___, f/u later this 
week
-abnormal lung findings: could consider repeat CT scan of the 
chest as outpatient to document resolution after her acute 
illness to rule out lung cancer or other nefarious finding. 
-if R flank pain does not improve or clinically no improvement 
over the next few days, PCP may consider repeat R renal 
ultrasound to assess for development of an abscess.

# Contacts: ___ mother 
___ ___ ___ urgent ___ 
___: : called ___ to obtain urine culture data but results were still 
pending. I left my cell phone number for the physician there to 
call me with the results as soon as they come back. 
-___: I called ___ urgent ___ again to see if urine 
culture results were available and they were listed as "not 
received" since this has been over 4 days since it was sent, we 
are to assume that the sample was lost. 
-___: ___ I called her PCPs office outside of 
___ and confirmed the plan with the nurse practitioner 
there. I also got their fax number ___ to which I will 
have this discharge summary faxed. 

Spent > 30 minutes seeing the patient and organizing discharge. 

___
___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 0.5 mg PO DAILY:PRN anxiety, insomnia 
2. Ciprofloxacin HCl Dose is Unknown  PO Q12H 

 
Discharge Medications:
1. ClonazePAM 0.5 mg PO DAILY:PRN anxiety, insomnia 
2. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN severe 
pain 
RX *hydrocodone-acetaminophen 5 mg-325 mg 1 tablet(s) by mouth 
every 6 hours Disp #*8 Tablet Refills:*0
3. Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth every 12 hours Disp #*26 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pyelonephritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted for a severe urinary tract infection involving 
the right kidney termed pyelonephritis. The infection got worse 
despite oral ciprofloxacin so you were admitted to the hospital 
for IV antibiotics including ceftriaxone. You improved on this 
medication. unfortunately, there are no culture results 
available to guide our antibiotic choice. It is extremely 
important that you pay attention to your symptoms and seek 
medical care if you feel any worse. 

You should follow up with your primary care provider with in 5 
days after discharge to make sure you are on the correct 
antibiotic. If you develop worsening back pain or fevers, go see 
your doctor or go to an emergency room immediately as this may 
mean the bacteria are resistant to this antibiotic.  On the CT 
scan done to look at your kidneys, they noticed that there was a 
lot of inflammation surrounding your right kidney. If you 
continue to have pain and fevers, there is a chance this could 
turn into an abscess and your primary care doctor may choose to 
have an ultrasound of your kidney done to make sure this hasn't 
turned into an abscess. 

lastly, your kidney function was decreased when you were 
admitted and is now normalized. You should avoid NSAIDs such as 
ibuprofen, naproxen, aleve, or aspirin while your kidneys 
continue to recover. 

You will be discharged on oral Bactrim antibiotic to be taken 
for a total of 14 days. 

Also, the urine cultures from the urgent care center you went to 
are not available right now. They should call you when results 
are available. If the bacteria are resistant to Bactrim (also 
call trimethoprim/sulfamethoxazole) then you will need a script 
for a different antibiotic by your primary care provider or the 
urgent care physician. 
 
Followup Instructions:
___